US07291631B2
Using General Procedure B: Reaction of 1-(5-methyl-pyridin-2-yl)-ethanone (Sundberg, R J et al. J. Am. Chem. Soc. 1969, 91, 658-668) and (4-amino-butyl)-carbamic acid tert-butyl ester in CH2Cl2 with NaBH(OAc)3 gave {4-[1-(5-methyl-pyridin-2-yl)-ethylamino]-butyl}-carbamic acid tert-butyl ester as a pale yellow oil.

reactant | 1-(5-methyl-pyridin-2-yl)-ethanone | CC=1C=CC(=NC1)C(C)=O | C8H9NO
reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[1-(5-methyl-pyridin-2-yl)-ethylamino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNC(C)C1=NC=C(C=C1)C)=O | C17H29N3O2
